US09085555B2
To a solution of (1R,3S,5R)-3-[3-bromo-5-(1H-tetrazol-5-yl)-phenylcarbamoyl]-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester (200 mg, 0.445 mmol) in CH2Cl2 (2 mL) was added TFA (0.686 ml, 8.9 mmol). The reaction mixture was stirred at RT for 4 h. After completion the reaction mixture was diluted with CH2Cl2 and MeOH and the volatiles were removed under vacuum. MeOH was added and the reaction mixture concentrated again under vacuum. This operation was repeated twice to afford a mixture in a 2/3 ratio of (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid [3-bromo-5-(1H-tetrazol-5-yl)-phenyl]-amide: MS (LC/MS): 349.2 [M+H]+; tR (HPLC conditions k): 3.06 min and (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid [3-bromo-5-(1-tert-butyl-1H-tetrazol-5-yl)-phenyl]-amide: MS (LC/MS): 405.3 [M+H]+; tR (HPLC conditions k): 4.46 min.

reactant | (1R,3S,5R)-3-[3-bromo-5-(1H-tetrazol-5-yl)-phenylcarbamoyl]-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | 0.445 mmol, 200 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NC1=CC(=CC(=C1)C1=NN=NN1)Br)=O | C18H21BrN6O3
reactant | TFA | 8.9 mmol, 0.686 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid [3-bromo-5-(1H-tetrazol-5-yl)-phenyl]-amide | BrC=1C=C(C=C(C1)C1=NN=NN1)NC(=O)[C@H]1N[C@@H]2C[C@@H]2C1 | C13H13BrN6O
